spice
* SPICE Netlist for Given Schematic

* Voltage Source
VCC 6 0 DC 2.5V

* Current Sources
Iin 5 0 DC

* Resistors
RC 3 6 1k  ; Value assumed for RC
RF 4 2 1k  ; Value assumed for RF

* Transistors
Q1 3 5 2 NPN
Q2 7 3 2 NPN

* Current Source
I1 7 2 DC 1mA

* Node Definitions
* 1: Ground
* 2: Ground for RF and 1mA Source
* 3: Collector of Q1 and Q2
* 4: Top of RF
* 5: Input Current Source Node (Base of Q1)
* 6: VCC
* 7: Emitter of Q2 (Connected to 1mA source)

.end